US06441201B1
5-Cyanophthalid
5-Chlorocarbonylphthalid (24.3 g, 0.124 mole) was dissolved in sulfolane (51 g). Sulfamide (13.8 g 0.144 mole) was added and the temperature was raised to 135° C. for 3 hours. At about 90° C., gas evolution took place. The mixture was allowed to cool and water (100 g) was added. The temperature was held at 85-90° C. for 5 min and then the solution was cooled to 60° C. The crystals were filtered off and washed with water (60 g) and acetic acid (30 g). Then the title compound was dried in vacuo. Yield: 19 g, 96%. Purity: 98.2% (hplc, peak area).

reactant | 5-Chlorocarbonylphthalid | 0.124 mole, 24.3 g | ClC(=O)C=1C=C2COC(=O)C2=CC1 | C9H5ClO3
reactant | Sulfamide | 0.144 mole, 13.8 g | S(=O)(=O)(N)N | H4N2O2S
reactant | water | 100 g | O | H2O
solvent | sulfolane | 51 g | S1(=O)(=O)CCCC1 | C4H8O2S
product | 5-Cyanophthalid | C(#N)C=1C=C2COC(=O)C2=CC1 | C9H5NO2
